US09260425B2
A mixture of diethyl 2-(3-(6-(4-(tert-butoxycarbonyl)piperazin-1-yl)pyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)malonate (117 mg (0.188 mmol) and 0.5 ml of 1 M aqueous solution of LiOH in 6 ml of methanol/THF mixture (2:1) was heated at 60° C. for 1 hour. The mixture was acidified with 1 N aqueous HCl to pH<1 and stirred for 20 min. The mixture was concentrated, the residue partitioned between ethyl acetate and water. The pH of the mixture was adjusted to 4 by careful addition of saturated aqueous sodium bicarbonate. The organic extracts were washed with brine, dried over MgSO4 and concentrated to afford 2-(3-(6-(4-(tertButoxycarbonyl)piperazin-1-yl)pyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)acetic acid (68 mg, 32% over two steps. ESI MS m/z 523.4 (M+1).

reactant | diethyl 2-(3-(6-(4-(tert-butoxycarbonyl)piperazin-1-yl)pyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)malonate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C(C(=O)OCC)C(=O)OCC)C2OCCCC2 | C32H42N6O7
reactant | LiOH | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol THF | 6 ml | CO.C1CCOC1
product | 2-(3-(6-(4-(tertButoxycarbonyl)piperazin-1-yl)pyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)CC(=O)O)C2OCCCC2 | C27H34N6O5
